US05885990
Preparation of 6-amidino-1-methoxycarbonyl-2-naphthyl 4-aminoiminomethylaminobenzoate.
50 Milliliters of anhydrous pyridine was added to 1.9 g of 4-aminoiminomethylaminobenzoic acid.hydro-chloride, 3.0 g of of 6-amidino-1-methoxycarbonyl-2-naphthol.methanesulfonate, and 2.2 g of DCC, followed by stirring for 2 hours under cooling with ice and 24 hours at room temperature. The precipitate was collected by filtration and washed with a small amount of pyridine. To the collected precipitate was added 30 ml of water, followed by stirring for 1 hour. Insoluble matter was filtered off and the filtrate was added dropwise to 100 ml of saturated aqueous sodium bicarbonate solution, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration and washed with a small amount of water and acetone. To the collected precipitate were added 15 ml of methanol and 2.2 ml of methanesulfonic acid. The resulting solution was added dropwise to 300 ml of ether, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration and washed with a small amount of acetone to obtain 2.46 g of the desired product.

reactant | 4-aminoiminomethylaminobenzoic acid | 1.9 g | NN=CNC1=CC=C(C(=O)O)C=C1 | C8H9N3O2
reactant | hydro-chloride | Cl | ClH
reactant | 6-amidino-1-methoxycarbonyl-2-naphthol | C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)C(=O)OC)O | C13H12N2O3
reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | DCC | 2.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-amidino-1-methoxycarbonyl-2-naphthyl 4-aminoiminomethylaminobenzoate | 2.46 g | NN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)C(=O)OC)C=C1 | C21H19N5O4
